US05190965
A solution of 51.4 g of 4-chlorophenol in 500 ml of dry N,N-dimethylformamide (DMF) was added to a suspension of 20 g of 60% sodium hydride in 800 ml of dry DMF under nitrogen. After 30 min at 25° C., 1 g of 18-crown-6 was added. After the addition of 73 g of 2-bromobenzonitrile in 500 ml of dry DMF, the mixture was heated at 100° C. for 16 h. After concentration in vacuo, 2 N sodium hydroxide and ethyl acetate were added. The organic layer was separated, washed with 2 N sodium hydroxide and water, dried over magnesium sulfate, and evaporated to dryness. The residue was recrystallized from methanol to give in 60% yield 2-(4-chlorophenoxy)benzonitrile. To a suspension of 6 g of lithium aluminum hydride in 100 ml of dry tetrahydrofuran (THF) were added under nitrogen 20 of 2-(4-chlorophenoxy)benzonitrile. The mixture was heated at reflux for 3 h, cooled, and 25 ml of 1 N sodium hydroxide were added dropwise. The precipitate formed was filtered off and washed with diethyl ether. The filtrate was evaporated to dryness, dissolved in ethyl acetate and acidified with a saturated solution of hydrochloric acid in ethanol. The precipitate was collected and recrystallized from ethanol to give in 95% yield 2-(4-chlorophenoxy)benzenemethanamine hydrochloride. mp 253° C.

reactant | 4-chlorophenol | 51.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 20 g | [H-].[Na+]
reactant | 18-crown-6 | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-bromobenzonitrile | 73 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | DMF | 800 ml | CN(C=O)C | C3H7NO
solvent | DMF | 500 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenoxy)benzonitrile | 60% yield | ClC1=CC=C(OC2=C(C#N)C=CC=C2)C=C1 | C13H8ClNO
